US07307099B2
General Method for the Synthesis of 4,4-Dimethoxy-4H-Naphthalen-1-One
For example, a solution of 4-methoxynaphthol (16 mmol) and iodobenzene diacetate (6.1 g, 19 mmol) in methanol (75 mL) is stirred at room temperature, under a nitrogen atmosphere for 1 hour. The resultant dark blue solution is poured into a saturated solution of NaHCO3 (75 mL), then evaporated to reduced volume. The blue oil is extracted with CH2Cl2 (3×75 mL) and the organic layer is washed with water (3×75 mL), brine (2×75 mL), and is dried over MgSO4, and filtered and evaporated to dryness (bath temp. <40° C.) to yield the product as a dark blue semi-solid.

reactant | 4-methoxynaphthol | 16 mmol | COC1=CC=C(C2=CC=CC=C12)O | C11H10O2
reactant | iodobenzene diacetate | 19 mmol, 6.1 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 75 mL | CO | CH4O
product | 4,4-Dimethoxy-4H-Naphthalen-1-One | COC1(C=CC(C2=CC=CC=C12)=O)OC | C12H12O3
